US08389508B2
To a solution of 5-{3-[2-ethyl-3-(2-oxoethyl)phenyl]-1,2,4-thiadiazol-5-yl}-2-(2-methylpropyl)benzonitrile (D62) (110 mg) in dichloromethane (DCM) (15 mL) was added sodium acetate (25.5 mg), hydrogen chloride-methyl 3-azetidinecarboxylate (1:1) (45.0 mg) and 5 drops of acetic acid. After stirring for 30 min, sodium triacetoxyborohydride (90 mg) was added and the reaction solution was stirred at room temperature overnight. The solvent was removed in vacuo and the residue was dissolved in ethyl acetate (30 mL), the organic phase was washed with water, dried over sodium sulphate and concentrated. The residue was dissolved in isopropanol/water (10 mL, 1:1), 0.5M sodium hydroxide (2.82 mL) was added. The reaction solution was stirred at room temperature overnight. The isopropanol was removed in vacuo and the residue was acidified to pH=3-4. The resulting solution was extracted with ethyl acetate (2*15 mL), and the combined organic phases were dried over sodium sulphate, concentrated and purified by Mass Directed AutoPrep to afford 1-[2-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,2,4-thiadiazol-3-yl}-2-ethylphenyl)ethyl]-3-azetidinecarboxylic acid (E30) (24 mg) as a TFA salt. δH (DMSO-d6, 400 MHz): 0.86 (6H, d), 1.06 (3H, t), 1.92 (1H, m), 2.70 (2H, d), 2.84 (4H, m), 3.34 (2H, m), 3.55 (1H, m), 4.21 (4H, m), 7.29 (1H, t), 7.38 (1H, d), 7.63 (1H, d), 7.69 (1H, dd), 8.26 (1H, dd), 8.46 (1H, d). δF (DMSO-d6, 376 MHz): −73.6. MS (ES): C27H30N4O2S requires 474. found 475.1 (M+H+).

reactant | 5-{3-[2-ethyl-3-(2-oxoethyl)phenyl]-1,2,4-thiadiazol-5-yl}-2-(2-methylpropyl)benzonitrile | 110 mg | C(C)C1=C(C=CC=C1CC=O)C1=NSC(=N1)C=1C=CC(=C(C#N)C1)CC(C)C | C23H23N3OS
reactant | sodium acetate | 25.5 mg | C(C)(=O)[O-].[Na+]
reactant | hydrogen chloride methyl 3-azetidinecarboxylate | 45.0 mg | Cl.N1CC(C1)C(=O)OC
reactant | sodium triacetoxyborohydride | 90 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 1-[2-(3-{5-[3-cyano-4-(2-methylpropyl)phenyl]-1,2,4-thiadiazol-3-yl}-2-ethylphenyl)ethyl]-3-azetidinecarboxylic acid | 24 mg | C(#N)C=1C=C(C=CC1CC(C)C)C1=NC(=NS1)C=1C(=C(C=CC1)CCN1CC(C1)C(=O)O)CC | C27H30N4O2S
